US04285944
To a solution of 1.66 g. (0.006 mole) 3-phenyl-5,8-dihydro-6,8-dimethyl-5,8-ethano-6H-pyrano[4,3-e]-as-triazine-4-oxide and 1.50 g. (0.018 mole) cyclohexene in 30 ml. absolute ethanol there is added 60 mg. 10% palladium on charcoal. The resulting mixture is refluxed under a nitrogen atmosphere for 18 hours. The catalyst is then removed by filtration and the filtrate evaporated to give 3-phenyl-5,8-dihydro-6,8-dimethyl-5,8-ethano-6H-pyrano[4,3-e]-as-triazine.

reactant | 3-phenyl-5,8-dihydro-6,8-dimethyl-5,8-ethano-6H-pyrano[4,3-e]-as-triazine-4-oxide | 0.006 mole | C1(=CC=CC=C1)C=1N=NC2=C([N+]1[O-])C1C(OC2(CC1)C)C | C16H17N3O2
reactant | cyclohexene | 0.018 mole | C1=CCCCC1 | C6H10
catalyst | palladium on charcoal | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 3-phenyl-5,8-dihydro-6,8-dimethyl-5,8-ethano-6H-pyrano[4,3-e]-as-triazine | C1(=CC=CC=C1)C=1N=NC2=C(N1)C1C(OC2(CC1)C)C | C16H17N3O
